US05607934
1.09 g of dicyclohexylcarbodiimide was added to 25 ml of a solution of 2.17 g of (3RS,6SR)-3-benzyl-1-benzyloxy-3-carboxy-6-isobutylpiperazine-2,5-dione and 0.63 g of N-hydroxysuccinimide in anhydrous dioxane. The mixture was stirred at room temperature for 2 hours. Thereto was added 0.80 g of 2-aminobenzothiazole. The mixture was stirred at room temperature for 23 hours. The reaction mixture was diluted with 200 ml of ethyl acetate. The resulting solution was washed with an aqueous solution saturated with sodium hydrogen carbonate and an aqueous solution saturated with sodium chloride, then dried with anhydrous magnesium sulfate, and subjected to distillation to remove the solvent. The residue was crystallized using ethyl acetate, to obtain 2.77 g of (3RS,6SR)-3-(benzothiazol-2-yl)-carbamoyl-3-benzyl-1-benzyloxy-6-isobutylpiperazine-2,5-dione as a white solid.

reactant | dicyclohexylcarbodiimide | 1.09 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (3RS,6SR)-3-benzyl-1-benzyloxy-3-carboxy-6-isobutylpiperazine-2,5-dione | 2.17 g | C(C1=CC=CC=C1)C1(C(N(C(C(N1)=O)CC(C)C)OCC1=CC=CC=C1)=O)C(=O)O | C23H26N2O5
reactant | N-hydroxysuccinimide | 0.63 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 2-aminobenzothiazole | 0.80 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (3RS,6SR)-3-(benzothiazol-2-yl)-carbamoyl-3-benzyl-1-benzyloxy-6-isobutylpiperazine-2,5-dione | 2.77 g | S1C(=NC2=C1C=CC=C2)C2(C(N(C(C(N2C(N)=O)=O)CC(C)C)OCC2=CC=CC=C2)=O)CC2=CC=CC=C2 | C30H30N4O4S
